US07745642B2
Step 3: 2-(Methyloxy)-4,6-bis(trifluoromethyl)benzoyl chloride
To a solution of 2-(methyloxy)-4,6-bis(trifluoromethyl)benzoic acid (20.2 g; 70.14 mmol) in dry DCM (400 mL), at 0° C., was added dropwise oxalyl chloride (13.4 mL; 154.31 mmol) followed by dry DMF (5 drops). The reaction was allowed to reach room temperature. After overnight stirring the solvent was evaporated in vacuo to get the title product (23.5 g) as a yellow slurry used without further purification.

reactant | 2-(methyloxy)-4,6-bis(trifluoromethyl)benzoic acid | 70.14 mmol, 20.2 g | COC1=C(C(=O)O)C(=CC(=C1)C(F)(F)F)C(F)(F)F | C10H6F6O3
reactant | oxalyl chloride | 154.31 mmol, 13.4 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 400 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 5 drops | CN(C)C=O | C3H7NO
product | 2-(Methyloxy)-4,6-bis(trifluoromethyl)benzoyl chloride | 23.5 g | COC1=C(C(=O)Cl)C(=CC(=C1)C(F)(F)F)C(F)(F)F | C10H5ClF6O2
